US05169428
Preparation of N-(4-chloro-5-hydroxymethylphenyl)-3,4,5,6-tetrahydrophthalimide (CompoundNo. 24 (Table 5))
To 50 ml of acetic acid, 2.47 g of 3,4,5,6-tetrahydrophthalic anhydride and2.56 g of 4-chloro-5-hydroxymethyl aniline were added and the mixture was heated to reflux under stirring for 16 hours. After cooling, the solvent was evaporated under reduced pressure and the residue was purified by column chromatography (silica gel, benzene/ethyl acetate=10/1 (v/v)) to obtain 1.82 g of the desired product.

reactant | 3,4,5,6-tetrahydrophthalic anhydride | 2.47 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | 4-chloro-5-hydroxymethyl aniline | 56 g | ClC1=CC=C(N)C=C1CO | C7H8ClNO
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N-(4-chloro-5-hydroxymethylphenyl)-3,4,5,6-tetrahydrophthalimide | 1.82 g | ClC1=CC=C(C=C1CO)N1C(C2=C(C1=O)CCCC2)=O | C15H14ClNO3
